US08633173B2
[8-(2-Methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-quinolin-6-yl-amine was prepared from 2-chloro-8-(2-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine and quinolin-6-ylamine in a manner analogous to Example 2d (0.12 g, 65%). MP=247-249° C. 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 10.18 (s, 1H), 8.88 (d, J=6.58 Hz, 1H), 8.75 (d, 1H), 8.45 (d, 1H), 8.25 (d, 1H), 8.15 (t, 1H), 7.85-7.90 (m, 2H), 7.55 (m, 1H), 7.42 (m, 1H), 7.10 (m, 1H), 3.90 (s, 3H). MS=369 (MH)+.

reactant | 2-chloro-8-(2-methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine | ClC1=NN2C(C(=CC=C2)C=2C(=NC=CC2)OC)=N1 | C12H9ClN4O
reactant | quinolin-6-ylamine | N1=CC=CC2=CC(=CC=C12)N | C9H8N2
product | [8-(2-Methoxy-pyridin-3-yl)-[1,2,4]triazolo[1,5-a]pyridine-2-yl]-quinolin-6-yl-amine | COC1=NC=CC=C1C=1C=2N(C=CC1)N=C(N2)NC=2C=C1C=CC=NC1=CC2 | C21H16N6O
